US09315521B2
6-methyl-2-({[4-(propan-2-yl)-1,3-thiazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol
A mixture of 5-(bromomethyl)-4-(propan-2-yl)-1,3-thiazole (5.1 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (510 mg, 3.6 mmol), and triethylamine (2.2 mL, 15.8 mmol) in absolute ethanol (30 mL) was stirred at room temperature overnight. The mixture was evaporated to dryness and then co-evaporated with EtOAc (20 mL). The residue was treated with water (100 mL). The solid material was recovered by filtration and washed with water (2×20 mL), diethyl ether (2×20 mL), and hexanes (2×20 mL). The solid material was dried in vacuo, affording the title compound (565 mg, 56% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.20 (d, 6H, J=6.8 Hz), 2.24 (s, 3H), 3.27 (m, 1H), 4.61 (s, 2H), 6.03 (s, 1H), 8.84 (s, 1H); M+282.

reactant | 5-(bromomethyl)-4-(propan-2-yl)-1,3-thiazole | 5.1 mmol | BrCC1=C(N=CS1)C(C)C | C7H10BrNS
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.6 mmol, 510 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 15.8 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 6-methyl-2-({[4-(propan-2-yl)-1,3-thiazol-5-yl]methyl}sulfanyl)pyrimidin-4-ol | 565 mg, 56% yield | CC1=CC(=NC(=N1)SCC1=C(N=CS1)C(C)C)O | C12H15N3OS2
